US06476077B1
(ii) N-[(S)-2-(3,4-Dichlorophenyl)-4-hydroxybutyl]-N-methyl-3-cyano-1-naphthamide
(S)-2-(3,4-Dichlorophenyl)-4-hydroxybutylamine (20.8 g, 83.8 mmol) was dissolved in DCM (700 mL). To the stirred solution was added 10% aqueous sodium bicarbonate (300 mL), and the mixture cooled to 0° C. A solution of 3-cyano-1-naphthoyl chloride (17.4 g, 80.6 mmol) in DCM (300 mL) was added dropwise over 30 minutes. The mixture was then allowed to warm to ambient temperature and stir for 20 h. The layers were separated, and the aqueous phase washed with DCM (300 mL). The combined organic layers were dried (Na2SO4), filtered, and evaporated in vacuo to give a white foam. Purification by chromatography (silica gel; 0-25% acetonitrile in DCM) provided the desired product as a white foam (27.0 g, 78%). 1H-NMR (DMSO-d6) δ1.46-1.60 (m, 1H, CH); 1.77-1.91 (m, 3H, CH); 4.3-4.41 (t, 1H, CH); 4.5-4.57 (t, 2H, CH); 6.43 (broad, 1H, OH); 6.8-7.26 (m, 2H, aromatic); 7.44-7.54 (m, 3H, aromatic); 7.57-7.80 (m, 7H, aromatic); 8.04-8.33 (m, 2H, aromatic); 8.61 (s, 1H, aromatic).

reactant | (S)-2-(3,4-Dichlorophenyl)-4-hydroxybutylamine | 83.8 mmol, 20.8 g | ClC=1C=C(C=CC1Cl)[C@@H](CN)CCO | C10H13Cl2NO
reactant | sodium bicarbonate | 300 mL | C([O-])(O)=O.[Na+]
reactant | 3-cyano-1-naphthoyl chloride | 80.6 mmol, 17.4 g | C(#N)C=1C=C(C2=CC=CC=C2C1)C(=O)Cl | C12H6ClNO
solvent | DCM | 700 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | N-[(S)-2-(3,4-Dichlorophenyl)-4-hydroxybutyl]-N-methyl-3-cyano-1-naphthamide | 27.0 g, 78% | ClC=1C=C(C=CC1Cl)[C@@H](CN(C(=O)C1=CC(=CC2=CC=CC=C12)C#N)C)CCO | C23H20Cl2N2O2
